US04960771
Preparation of 1-(2-hydroxyethyl)-3-octylimidazolidin-2-one
7.1 g of 3-(2-chloroethyl)oxazolidin-2-one was treated with 12.271 g of octyl amine. The reaction mixture was stirred overnight, diluted with ethyl acetate and washed with water and brine. The organic solution was dried and concentrated to give 9.55 g (83%) of product.

reactant | 3-(2-chloroethyl)oxazolidin-2-one | 7.1 g | ClCCN1C(OCC1)=O | C5H8ClNO2
reactant | octyl amine | 12.271 g | C(CCCCCCC)N | C8H19N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(2-hydroxyethyl)-3-octylimidazolidin-2-one | 9.55 g, 83% | OCCN1C(N(CC1)CCCCCCCC)=O | C13H26N2O2
